US08293768B2
Synthesis of N-benzyl-2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with benzylamine, the title compound was obtained as a white powder in 16% yield: mp 192-193° C.; 1H NMR (300 MHz, CDCl3) δ 7.37-7.21 (m, 7H), 7.04-6.98 (m, 2H), 5.95 (s, 1H), 4.54 (d, J=5.7 Hz, 2H), 4.41 (s, 2H), 4.03 (t, J=8.1 Hz, 2H), 3.42 (t, J=8.1 Hz, 2H), 2.58 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 164.1, 162.3, 157.2, 155.3, 152.9, 137.9, 133.8, 131.3, 129.9, 128.7, 127.7, 117.3, 115.9, 47.2, 44.0, 42.0, 41.6, 17.2; MS (ES+) m/z 425.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 16% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)F)=O)C | C22H21FN4O2S
